US03963717
A mixture of 10 g. of 5-nitro-2,3-dihydrobenzofuran, 2.5 g. of Raney Nickel and 50 ml. of ethanol is hydrogenated in a Parr apparatus at a hydrogen pressure of 50 p.s.i. and room temperature until the uptake of hydrogen ceases. The resulting mixture is filtered to remove catalyst and the filtrate evaporated in vacuo to obtain an oil of 2,3-dihydro-5-benzofuranamine.

reactant | 5-nitro-2,3-dihydrobenzofuran | [N+](=O)([O-])C=1C=CC2=C(CCO2)C1 | C8H7NO3
reactant | hydrogen | [H][H] | H2
catalyst | Raney Nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 2,3-dihydro-5-benzofuranamine | O1CCC2=C1C=CC(=C2)N | C8H9NO
